US06541473B2
8-[2,4-bis(Methoxymethoxy)phenyl]-1,4-dioxaspiro[4.5]decane
8-[2,4-Bis(methoxymethoxy)phenyl]-1,4-dioxaspiro[4.5]dec-7-ene (0.950 g) and palladium (200 mg, 10% on carbon) were stirred under an atmosphere of hydrogen for 15 hr. The mixture was then filtered through a plug of Celite, washing with ethyl acetate. The filtrate was then evaporated to dryness, affording the desired product (0.955 g, 100%) as a colourless oil. δH (CDCl3) 1.67-1.87 (8H, m), 2.90-2.99 (1H, m), 3.46 (3H, s), 3.48 (3H, s), 3.97 (4H, s), 5.12 (2H, s), 5.18 (2H, s), 6.65 (1H, dd), 6.78 (1H, d), 7.12 (1H, d).

reactant | 8-[2,4-Bis(methoxymethoxy)phenyl]-1,4-dioxaspiro[4.5]dec-7-ene | 0.950 g | COCOC1=C(C=CC(=C1)OCOC)C1=CCC2(OCCO2)CC1 | C18H24O6
catalyst | palladium | 200 mg | [Pd] | Pd
product | 8-[2,4-bis(Methoxymethoxy)phenyl]-1,4-dioxaspiro[4.5]decane | 0.955 g, 100% | COCOC1=C(C=CC(=C1)OCOC)C1CCC2(OCCO2)CC1 | C18H26O6
